US04230709
3-n-Butyl-5-methylenehydantoin
3-n-Butyl-5-methyl-5-hydroxyhydantoin (5.1 g 0.027 mole) was added to an ice-cold solution of 80% formic acid (50 ml) in acetic anhydride (60 ml) containing a small amount of hydroquinone (0.1 g) and the mixture heated on an oil-bath at 120° C. for 15 minutes. The mixture was then cooled to room-temperature and the solvents removed on the rotary evaporator under reduced pressure, yielding an oil which readily crystallised. The title product was crystallised from ethyl acetate-light petroleum (b.p. 40°-60° C.) to yield the product as prisms, m.p. 73° C. Yield=4.3 g=94%.

reactant | 3-n-Butyl-5-methyl-5-hydroxyhydantoin | 0.027 mole, 5.1 g | C(CCC)N1C(NC(C1=O)(O)C)=O | C8H14N2O3
reactant | formic acid | 50 ml | C(=O)O | CH2O2
reactant | hydroquinone | 0.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-n-Butyl-5-methylenehydantoin | C(CCC)N1C(NC(C1=O)=C)=O | C8H12N2O2
